US08026236B2
B: 6-{4-[3-(N-acetyl-N-ethylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile
Acetyl chloride (0.009 ml) was added dropwise to a solution of 6-(4-(3-(ethylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (17.5 mg) and diisopropylethylamine (0.034 ml) in THF (2 ml). The reaction mixture was stirred at room temperature for 1 hour. The product was then purified by acidic prep HPLC to 6-{4-[3-(N-acetyl-N-ethylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile. 1H NMR (MeOD) δ: 8.43 (s, 1H), 8.34-8.30 (m, 2H), 7.30 (t, 1H), 4.25-4.18 (m, 2H), 4.02 (s, 3H), 3.52-3.63 (m, 2H), 3.45 (q, 2H), 2.20-2.11 (m, 5H), 1.22+1.15 (2xt, 3H). MS m/z 446 (M+H).

reactant | Acetyl chloride | 0.009 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-(4-(3-(ethylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 17.5 mg | C(C)NCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2)C(F)(F)F | C19H18F3N5O
reactant | diisopropylethylamine | 0.034 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-{4-[3-(N-acetyl-N-ethylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)(=O)N(CC)CCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C22H22F3N5O2
